US07166621B2
Step 4: Preparation of 2-bromo-N-(4-methylpent-2-yn-4-yl) butyramide
4-Amino-4-methylpent-2-yne hydrochloride (5.0 g) was dissolved in dry dichloromethane (200 ml) and cooled to 3° C. with stirring. 2-Bromobutyryl bromide (6.25 g) was added followed by the dropwise addition of dry triethylamine (10.93 ml) whilst maintaining the reaction at 5° C. The suspension, which had formed during the reaction, was stirred at ambient temperature for 1 hour and water was added. The organic phase was separated, washed with water, dried over magnesium sulphate then evaporated under reduced pressure. The residue was fractionated by chromatography (silica; hexane/diethyl ether, 3:1 by volume) to give the required product, 5.2 g, as a colourless solid, mp 79–81° C.

reactant | 4-Amino-4-methylpent-2-yne hydrochloride | 5.0 g | Cl.NC(C#CC)(C)C
reactant | 2-Bromobutyryl bromide | 6.25 g | BrC(C(=O)Br)CC | C4H6Br2O
reactant | triethylamine | 10.93 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-bromo-N-(4-methylpent-2-yn-4-yl) butyramide | BrC(C(=O)NC(C#CC)(C)C)CC | C10H16BrNO
